US05700941
Step 1: 3-(2-Hydroxyethyl)-N-phenylisonicotinamide
To a solution of N-phenylisonicotinamide (1.98 g, 10 mmol) in tetrahydrofuran (40 ml) at -78° C. was added a solution of n-butyllithium (1.6M in hexanes; 13.5 ml, 21.6 mmol) and the resulting red solution stirrred for 40 minutes before addition of a solution of ethylene oxide in dioxane (3.56M; 3.0 ml, 11 mmol). After allowing the mixture to warm to room temperature over 21/2 hours, the reaction was quenched by addition of methanol (8 ml). The solvent was evaporated and the residue partitioned between ethyl acetate (70 ml) and water (25 ml). The organic layer was washed with saturated brine (25 ml), dried (MgSO4) and evaporated. The residue was chromatographed on silica eluting with 10% methanol/dichloromethane to afford the title compound as a solid (1.05 g, 43%); δH (CDCl3) 3.07 (2H, t, J 5.6 Hz, ArCH2 CH2OH), 3.70 (1H, br s, OH), 4.10 (2H, t, J 5.6 Hz, ArCH2 CH2OH), 7.15-7.19 (1H, m, ArH), 7.35-7.39 (2H, m, ArH), 7.49 (1H, d, J 5.2 Hz, ArH), 7.69-7.71 (2H, m, ArH), 8.44-8.48 (2H, m, ArH), 9.77 (1H, s, NH).

reactant | N-phenylisonicotinamide | 10 mmol, 1.98 g | C1(=CC=CC=C1)NC(C1=CC=NC=C1)=O | C12H10N2O
reactant | n-butyllithium | 21.6 mmol, 1.6M, 13.5 ml | C(CCC)[Li]
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | dioxane | 11 mmol, 3.56M, 3.0 ml | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3-(2-Hydroxyethyl)-N-phenylisonicotinamide | 1.05 g, 43% | OCCC1=C(C(=O)NC2=CC=CC=C2)C=CN=C1 | C14H14N2O2
